* source AMPLIFIER V2
V_V1         N00942 0 DC 0Vdc AC 1Vac 
Q_Q1         N05752 0 N04350 QbreakN 
Q_Q3         N06783 N05468 N05176 QbreakN 
C_C1         N001390 N04350  1u  
V_V5         N24896 0 5Vdc
R_RE1         N03641 N04350  10k  
R_RC3         N06783 N24896  200  
R_RC1         N05752 N08500  10k  
R_RE3         N10496 N05176  10k  
C_C2         N03641 N04350  1n  
V_V2         0 N03641 5Vdc
C_C3         N05752 N24611  1u  
V_V3         N08500 0 5Vdc
R_R1         N20043 0  118  
R_R2         0 N20043  118  
C_C5         N05176 N20043  1u  
Q_Q2         N23388 N24611 0 QbreakN 
R_RC2         N23388 N24618  500  
V_V4         N24618 0 5Vdc
C_C4         N23388 N05468  1u  
R_RB3         N10496 N05468  10k  
V_V6         0 N10496 5Vdc
R_RB2         N24618 N24611  100k  
R_R5         N05468 N24896  1k  
C_C6         N24611 N24618  1n  
R_Rs         N00942 N001390  50  
C_C7         N10496 N05468  1n  
